US08026257B2
tert-Butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-(dimethylamino)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
Prepared according to the procedure used to prepare tert-butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate using tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-(dimethylamino)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate as the starting material. 1H-NMR (CDCl3, 500 MHz) δ 10.84 (bs, 1H), 7.94 (s, 1H), 7.65 (d, J=1.8 Hz, 1H), 7.31 (m, 2H), 7.00-7.10 (m, 3H), 5.12 (s, 1H), 3.72 (m, 2H), 3.59 (d, J=8.9 Hz, 1H), 3.38 (d, J=8.9 Hz, 1H), 3.02 (m, 2H), 2.87 (s, 3H), 2.77 (s, 3H), 2.17 (m, 2H), 1.85 (m, 2H), 1.42 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 168.9, 161.6 (d, J=247 Hz), 155.0, 138.1, 136.3, 133.7, 128.8 (d, J=7.7 Hz), 125.9, 124.9, 124.5, 120.3, 119.8, 115.6 (d, J=21 Hz), 80.6, 79.6, 79.1, 41.3, 40.0 (br), 36.6, 36.5, 32.4, 32.2, 28.5.

reactant | tert-butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C2C=NNC2=C(C1)C(C(=O)OC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C27H31ClFN3O5
reactant | tert-butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-(dimethylamino)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC1=CC2=CN(N=C2C(=C1)C(C(=O)N(C)C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C34H48ClFN4O5Si
product | tert-Butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-(dimethylamino)-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C2C=NNC2=C(C1)C(C(=O)N(C)C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C28H34ClFN4O4
